US09340506B2
2-(4-Cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-N-thiazol-2-yl-acetamide
To a mixture of 2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetic acid (preparation 4; 0.2 g, 0.58 mmol), 2-aminothiazole (0.070 g, 0.70 mmol), HOBt (0.095 g), and EDCl (0.134 g, 0.70 mmol) in methylene chloride (6 mL), was added N-methyl morpholine (0.08 mL, 0.70 mmol). The resulting mixture was stirred at room temperature overnight followed by dilution with methylene chloride. The reaction mixture was poured into water; organic layer was washed with water, brine, dried over sodium sulfate, and the organic solvent evaporated to get a residue which was purified by preparative TLC to obtain a title compound (0.118 g)

reactant | 2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetic acid | 0.58 mmol, 0.2 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)OC1CCOCC1 | C16H20O6S
reactant | 2-aminothiazole | 0.70 mmol, 0.070 g | NC=1SC=CN1 | C3H4N2S
reactant | HOBt | 0.095 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.70 mmol, 0.134 g | CCN=C=NCCCN(C)C.Cl
reactant | N-methyl morpholine | 0.70 mmol, 0.08 mL | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-(4-Cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-N-thiazol-2-yl-acetamide | 0.118 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC=1SC=CN1)OC1CCOCC1 | C19H22N2O5S2
